US07087626B2
Methanesulfonic acid 2-pyridin-2-yl-3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-ylmethyl ester
A solution of [2-(6-methyl-pyridin-2-yl)-3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-methanol (30 mg, 0.07 mmol) and 4-dimethylaminopyridine (catalytic) in pyridine (0.2 mL) is cooled to 0° C. and treated with methanesulfonyl chloride (8 mL, 0.105 mmol) and stirred for 30 min. The mixture is stirred at room temperature for 30 min, diluted with ethyl acetate (20 mL), washed with water and brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to yield the title compound, 30 mg (86%,) as a yellow oil.

reactant | [2-(6-methyl-pyridin-2-yl)-3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-yl]-methanol | 0.07 mmol, 30 mg | CC1=CC=CC(=N1)C=1C(=C2N(N1)C(CC2)CO)C2=CC=NC1=CC=CC=C21 | C22H20N4O
reactant | methanesulfonyl chloride | 0.105 mmol, 8 mL | CS(=O)(=O)Cl | CH3ClO2S
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 0.2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | Methanesulfonic acid 2-pyridin-2-yl-3-quinolin-4-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-6-ylmethyl ester | N1=C(C=CC=C1)C=1C(=C2N(N1)C(CC2)COS(=O)(=O)C)C2=CC=NC1=CC=CC=C21 | C22H20N4O3S
